US04963566
8-(2-Benzimidazolyl)thiomethyl-1-ethyl-4-oxo-1,2,3,4-tetrahydroquinoline (1 g) and methylamine (40% methanol solution, 7.4 ml) were dissolved in methanol (15 ml) and the solution was refluxed for 14 hours. After allowing to cool, sodium borohydride (630 mg) was added by portions with stirring at room temperature, and the mixture was stirred for 1 hour at the same temperature. The solvent was distilled off and the resulting residue was extracted with dichloromethane. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The resulting residue was recrystallized from ethyl acetate to give 8-(2-benzimidazolyl)thiomethyl-1-ethyl-4-methylamino-1,2,3,4-tetrahydroquinoline (970 mg).

reactant | 8-(2-Benzimidazolyl)thiomethyl-1-ethyl-4-oxo-1,2,3,4-tetrahydroquinoline | 1 g | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1C(CCN(C21)CC)=O | C19H19N3OS
reactant | methylamine | 7.4 ml | CN | CH5N
reactant | sodium borohydride | 630 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 8-(2-benzimidazolyl)thiomethyl-1-ethyl-4-methylamino-1,2,3,4-tetrahydroquinoline | 970 mg | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1C(CCN(C21)CC)NC | C20H24N4S
